US07335660B2
a) 2-((1S)-6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethyl tert-butyl(diphenyl)silyl ether
To a solution of 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethanol (3.0 g, 11.7 mmol) in dry THF (100 mL) was added imidazole (3.97 g, 58.4 mmol) and chloro-tert-butyl(diphenyl)silane (6.42 g, 23.4 mmol), and the mixture stirred under nitrogen at room temperature for 20 h. Diethyl ether was added and the mixture filtered through a pad of silica. The filtrate was evaporated in vacuo and the crude product purified by flash chromatography on silica, eluting with ethyl acetate/heptane (0:10 to 2:8), to yield the title compound.

reactant | 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethanol | 11.7 mmol, 3.0 g | BrC=1C=CC2=C(CCO[C@H]2CCO)C1 | C11H13BrO2
reactant | imidazole | 58.4 mmol, 3.97 g | N1C=NC=C1 | C3H4N2
reactant | chloro-tert-butyl(diphenyl)silane | 23.4 mmol, 6.42 g | Cl[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C16H19ClSi
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-((1S)-6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethyl tert-butyl(diphenyl)silyl ether | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@@H]1OCCC2=C1C=CC(=C2)Br | C27H31BrO2Si
